US05977101
c) Benzyl 4-[2-(methylamino)acetyl]phenoxyacetate hydrochloride
A mixture of benzyl 4-[2-(BOC-methylamino)acetyl]phenoxyacetate (7.26 g, 17.57 mmol) and 4 M HCl in 1,4-dioxane (150 mL) was stirred for 1 h at RT. Evaporation on the rotavap and trituration with Et2O afforded the title compound as a white powder (5.93 g, 97%): 1H NMR (250 MHz, CD3OD) δ 7.05-8.00 (m, 9 H), 5.23 (s, 2H), 4.88 (s, 2H), 4.65 (s, 2H), 2.80 (s, 3H).

reactant | benzyl 4-[2-(BOC-methylamino)acetyl]phenoxyacetate | 17.57 mmol, 7.26 g | C(=O)(OC(C)(C)C)N(CC(=O)C1=CC=C(OCC(=O)OCC2=CC=CC=C2)C=C1)C | C23H27NO6
reactant | HCl | 4 M | Cl | ClH
solvent | 1,4-dioxane | 150 mL | O1CCOCC1 | C4H8O2
product | Benzyl 4-[2-(methylamino)acetyl]phenoxyacetate hydrochloride | 5.93 g, 97% | Cl.CNCC(=O)C1=CC=C(OCC(=O)OCC2=CC=CC=C2)C=C1 | InChI=1S/C18H19NO4.ClH/c1-19-11-17(20)15-7-9-16(10-8-15)22-13-18(21)23-12-14-5-3-2-4-6-14;/h2-10,19H,11-13H2,1H3;1H
